US07435744B2
N-(2-oxo-2,3-dihydro-1H-benzoxazol-6-yl)-2-(4-phenoxy-piperidin-1-yl)-acetamide 4570002406
The title compound is prepared from (4-phenoxy-piperidin-1-yl)-acetic acid hydrochloride and 6-amino-3H-benzoxazol-2-one according to the method described in Example 161c. Melting Point: 193-195° C. (diethylether)

reactant | (4-phenoxy-piperidin-1-yl)-acetic acid hydrochloride | Cl.O(C1=CC=CC=C1)C1CCN(CC1)CC(=O)O
reactant | 6-amino-3H-benzoxazol-2-one | NC1=CC2=C(NC(O2)=O)C=C1 | C7H6N2O2
solvent | diethylether | C(C)OCC | C4H10O
product | N-(2-oxo-2,3-dihydro-1H-benzoxazol-6-yl)-2-(4-phenoxy-piperidin-1-yl)-acetamide | O=C1OC2=C(N1)C=CC(=C2)NC(CN2CCC(CC2)OC2=CC=CC=C2)=O | C20H21N3O4
